US06121271
4-(2,3-Dimethyl-naphtho[2,3-b]furan-4-yl)-2,6-diethyl-phenol
The title compound was prepared according to the procedure in Example 1, step 5, using (2-benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diethyl-4-methoxy-phenyl)-methanone (22.0 g, 58.4 mmol) and boron tribromide (36.8 mL, 0.389 mol). Purification on Biotage KP-Sil, eluting with a 0, 2 & 5% EtOAc/hexane step gradient followed by trituration with hexane gave 1.34 g (8%), of the title compound as an off white solid. 1H NMR (DMSO-d6) δ 1.15 (t, 6 H), 1.59 (s, 3 H), 2.37 (s, 3 H), 2.59-2.72 (m, 4 H), 6.89 (s, 2 H), 7.29 (d of t, 1 H), 7.39 (d of t, 1 H), 7.56 (d, 1 H), 7.90 (s, 1 H), 7.96 (d, 1 H), 8.29 (s, 1 H). IR (KBr) 3540, 2960, 1475, 1180 and 1140 cm-1. mass spectrum (EI) m/z 344 (M+). Anal. Calcd. for C24H24O2.0.3H2O: C, 82.39; H, 7.09; N, 0.00. Found: C, 82.53; H, 7.11; N, 0.05.

reactant | (2-benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diethyl-4-methoxy-phenyl)-methanone | 58.4 mmol, 22.0 g | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)CC)OC)CC)C)C | C25H28O3
reactant | boron tribromide | 0.389 mol, 36.8 mL | B(Br)(Br)Br | BBr3
reactant | KBr | [K+].[Br-]
product | 4-(2,3-Dimethyl-naphtho[2,3-b]furan-4-yl)-2,6-diethyl-phenol | CC1=C(C2=C(O1)C=C1C=CC=CC1=C2C2=CC(=C(C(=C2)CC)O)CC)C | C24H24O2
